US07462630B2
Synthesis of (R)-N-[3-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-3-oxopropyl]-2.2-dimethylpropanamide
745 mg (1.48 mmol) of methyl (R)-2-[(t-butoxycarbonyl)amino]-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoate was dissolved in 70 ml of ethanol. 1.49 g of palladium carbon (10% w/v) was added to the obtained solution, and they were stirred at room temperature in hydrogen gas atmosphere under 4.4 atm. for 3.5 hours. The catalyst was filtered out, and the filtrate was concentrated under reduced pressure. The intended product was obtained from the resultant residue in the same manner as that in steps 3 and 4 in Example 50.

reactant | methyl (R)-2-[(t-butoxycarbonyl)amino]-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoate | 1.48 mmol, 745 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C30H34N2O5
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.49 g | [C].[Pd]
product | (R)-N-[3-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-3-oxopropyl]-2.2-dimethylpropanamide | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)C(C[C@H](CO)NC(C(C)(C)C)=O)=O | C29H36N2O3
